US03984563
2-Amino-3(p-aminophenyl)-1-methylindole hydrochloride.
The compound is obtained by hydrogenating at room temperature and atmospheric pressure in the presence 10% Pd on charcoal an ethanol solution of the hydrochloride of 2-amino-1-methyl-3-(p-nitrophenyl) indole. Yield 53%, m.p. 258°-261° C.

reactant | hydrochloride | Cl | ClH
reactant | 2-amino-1-methyl-3-(p-nitrophenyl) indole | NC=1N(C2=CC=CC=C2C1C1=CC=C(C=C1)[N+](=O)[O-])C | C15H13N3O2
catalyst | Pd on charcoal | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 2-Amino-3(p-aminophenyl)-1-methylindole hydrochloride | Yield 53% | Cl.NC=1N(C2=CC=CC=C2C1C1=CC=C(C=C1)N)C | InChI=1S/C15H15N3.ClH/c1-18-13-5-3-2-4-12(13)14(15(18)17)10-6-8-11(16)9-7-10;/h2-9H,16-17H2,1H3;1H
